US05350748
A suspension of 5-methoxy-3-(phenylmethoxy)-2-benzofurancarboxylic acid (157 mg, 0.50 mmol) and 1,1'-carbonyldiimidazole (96 mg, 0.59 mmol) in 15 mL of tetrahydrofuran is heated at reflux for 1.5 hours. The reaction solution is cooled to room temperature, aqueous ammonium hydroxide (1 mL) is added and the reaction mixture is stirred at room temperature for 1 hour. The reaction is diluted with ethyl acetate and washed with brine. The organic phase is dried over magnesium sulfate, filtered, and concentrated in vacuo. Chromatography eluting with ethyl acetate:hexane (1:1) provides 5-methoxy-3-(phenylmethoxy)-2-benzofurancarboxamide in 47% yield; mp=70°-72° C.

reactant | 5-methoxy-3-(phenylmethoxy)-2-benzofurancarboxylic acid | 0.50 mmol, 157 mg | COC=1C=CC2=C(C(=C(O2)C(=O)O)OCC2=CC=CC=C2)C1 | C17H14O5
reactant | 1,1'-carbonyldiimidazole | 0.59 mmol, 96 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonium hydroxide | 1 mL | [OH-].[NH4+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-methoxy-3-(phenylmethoxy)-2-benzofurancarboxamide | 47% yield | COC=1C=CC2=C(C(=C(O2)C(=O)N)OCC2=CC=CC=C2)C1 | C17H15NO4
